US08389511B2
6-Bromo-2-fluoro-3-(methoxymethoxy)benzaldehyde
A solution of diisopropylamine (364 μl) in tetrahydrofuran (1 ml) was cooled to −78° C., and thereto was added dropwise n-butyl lithium (0.86 ml, 2.77M hexane solution), and the mixture was stirred at 0° C. for 10 minutes. The reaction mixture was cooled to −78° C., and thereto was added dropwise a solution of 1-bromo-3-fluoro-4-(methoxymethoxy)benzene (470 mg) in tetrahydrofuran (1 ml), and the mixture was stirred for 30 minutes. To the mixture was added dropwise N,N-dimethyl-formamide (210 μl), and the mixture was stirred at room temperature for one hour. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate, washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (48 mg).

reactant | diisopropylamine | 364 μl | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.77M, 0.86 ml | C(CCC)[Li]
reactant | 1-bromo-3-fluoro-4-(methoxymethoxy)benzene | 470 mg | BrC1=CC(=C(C=C1)OCOC)F | C8H8BrFO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethyl-formamide | 210 μl | CN(C=O)C | C3H7NO
product | 6-Bromo-2-fluoro-3-(methoxymethoxy)benzaldehyde | 48 mg | BrC1=CC=C(C(=C1C=O)F)OCOC | C9H8BrFO3
